US04824951
2-(4-Chlorophenyl)-N-[3-(dimethylamino)propyl]-3H-imidazo[4,5-b]pyridine-3-acetamide hydrochloride hydrate [1:2:1]
Under nitrogen bubbling, a mixture of 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (5.0 g, 0.0174 mole) and 1,1'-carbonyldiimidazole (2.82 g, 0.0174 mole) in 150 ml of tetrahydrofuran was stirred at room temperature for 3 hrs. Under a nitrogen atmosphere, N,N-dimethylaminopropylamine (1.94 g, 0.019 mole) was added dropwise and the reaction was allowed to stir at room temperature overnight. The tetrahydrofuran was evaporated to dryness and the residue was treated with ice water. The solid was collected by filtration and dried under high vacuum. The solid was dissolved in isopropyl alcohol, acidified with ethereal hydrogen chloride, and seeded. The crystalline material was collected by filtration, washed with cold isopropyl alcohol, and dried under high vacuum at 50° C. over the weekend to give 2.78 g (34.5%), mp. 188°-90° C.

reactant | 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.0174 mole, 5.0 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10ClN3O2
reactant | 1,1'-carbonyldiimidazole | 0.0174 mole, 2.82 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N,N-dimethylaminopropylamine | 0.019 mole, 1.94 g | CNN(NC)CCC | C5H15N3
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2-(4-Chlorophenyl)-N-[3-(dimethylamino)propyl]-3H-imidazo[4,5-b]pyridine-3-acetamide hydrochloride hydrate | O.Cl.ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)NCCCN(C)C | InChI=1S/C19H22ClN5O.ClH.H2O/c1-24(2)12-4-11-21-17(26)13-25-18(14-6-8-15(20)9-7-14)23-16-5-3-10-22-19(16)25;;/h3,5-10H,4,11-13H2,1-2H3,(H,21,26);1H;1H2
